US05530138
N-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethyl]-4-fluoro-2-nitroaniline
The procedures described in Example 1 were repeated except that 2,5-difluoronitrobenzene (1.00 g, 6.29 mmol) and 5-(2-aminoethyl)-1-azabicyclo[3.3.0]octane (2.42 g, 15.7 mmol) were employed. In this case, the desired compound was obtained as a colorless liquid (2.00 g, quantitative).

reactant | 2,5-difluoronitrobenzene | 6.29 mmol, 1.00 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 5-(2-aminoethyl)-1-azabicyclo[3.3.0]octane | 15.7 mmol, 2.42 g | NCCC12CCCN2CCC1 | C9H18N2
product | N-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethyl]-4-fluoro-2-nitroaniline | N12CCCC2(CCC1)CCNC1=C(C=C(C=C1)F)[N+](=O)[O-] | C15H20FN3O2
